US04468399
A suspension of 2.53 g. of sodium hydride in 35 ml. of anhydrous dimethyl formamide was prepared. The suspension was cooled to about 0° C. with stirring. Next, a mixture of 9.56 g. of ethyl formate and 19 g. of ethyl 4-(3-pyridyl)butyrate were added. The consequent reaction mixture was stirred at about 0° C. for 1 additional hour and then at room temperature for about 3 days. The reaction mixture was acidified with 2N aqueous hydrochloric acid and the acidic aqueous solution evaporated to a very small volume in vacuo. The acidity of the solution was adjusted to pH=6 by the addition of solid potassium carbonate. The neutral aqueous layer was then extracted with ether. The ether layer was separated and dried. Evaporation of the ether yielded 16.4 g. of ethyl 2-formyl-4-(3-pyridyl)butyrate (formed in the above reaction) as an orange oil.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | ethyl 4-(3-pyridyl)butyrate | N1=CC(=CC=C1)CCCC(=O)OCC | C11H15NO2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | ethyl 2-formyl-4-(3-pyridyl)butyrate | C(=O)C(C(=O)OCC)CCC=1C=NC=CC1 | C12H15NO3
